US06559173B1
5-(2-Methoxy-phenyl)2H-pyrazol-3-ylamine
3-(2-Methoxy-phenyl)-3-oxo-propionitrile (2.4954 gms.) is then suspended in 55 mL of anhydrous EtOH. This suspension is treated with 0.90 mL of anhydrous hydrazine and subsequently heated to refluxing temperature for 1 day. The reaction mixture is concentrated in vacuo. The residue is then triturated with isopropanol to precipitate out the 5-(2-methoxy-phenyl)-2H-pyrazol-3-ylamine.

reactant | 3-(2-Methoxy-phenyl)-3-oxo-propionitrile | 2.4954 gms | COC1=C(C=CC=C1)C(CC#N)=O | C10H9NO2
reactant | hydrazine | 0.90 mL | NN | H4N2
solvent | EtOH | 55 mL | CCO | C2H6O
product | 5-(2-Methoxy-phenyl)2H-pyrazol-3-ylamine | COC1=C(C=CC=C1)C=1C=C(NN1)N | C10H11N3O
